US05436291
Diethyl hydrogen phosphite (1.0 mole) and diethyl amine (1.0 mole) were combined in a round bottom flask. Diethyl acetylphosphonate (1.0 mole) was added dropwise, with stirring. The reaction mixture was maintained at a temperature of about 75° C. for an additional 2 hours after all of the diethyl acetyl phosphonate was added. The resulting mixture was distilled under reduced pressure to yield tetraethyl 1-hydroxyethylidene bisphosphonic acid as a pale yellowish liquid which crystallized at -15° C. into small needle-shaped crystals.

reactant | Diethyl hydrogen phosphite | 1.0 mole | P(OCC)(OCC)O | C4H11O3P
reactant | diethyl amine | 1.0 mole | C(C)NCC | C4H11N
reactant | Diethyl acetylphosphonate | 1.0 mole | C(C)(=O)P(OCC)(OCC)=O | C6H13O4P
product | tetraethyl 1-hydroxyethylidene bisphosphonic acid | C(C)OP(OCC)(=O)C(C)(O)P(OCC)(OCC)=O | C10H24O7P2
